US07799798B2
Synthesis of 1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
To a mixture of triphenylphosphine (2.61 g, 9.95 mmol) and diethyl azodicarboxylate (1.73 g, 9.95 mmol) in anhydrous THF (100 mL) was added slowly a solution of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (2.85 g, 7.69 mmol) in anhydrous THF (50.0 mL) at 0° C. The brown reaction solution was stirred at ambient temperature for 16 h and quenched with saturated ammonium chloride (50.0 mL). The organic solvent was removed under reduced pressure. The aqueous layer was extracted with ethyl acetate (100 mL). The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was subjected to column chromatography to give the title compound (1.45 g, 54%), which was triturated from ether and hexane to give a colorless solid: mp 126-127° C.; 1H NMR (300 MHz, CDCl3) δ 8.18 (dd, 1H), 7.54 (dd, 1H), 7.01 (dd, 1H), 6.666 (s, 1H), 6.25 (s, 1H), 5.89 (d, 1H), 4.71 (ABq, 2H), 3.68 (t, 2H), 1.70-1.60 (m, 2H), 1.32-1.22 (m, 4H), 0.82 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.9, 156.8, 156.0, 149.0, 147.9, 142.3, 132.0, 126.7, 119.3, 119.2, 103.4, 101.9, 93.8, 79.7, 57.4, 39.3, 28.9, 27.1, 22.2, 14.3; MS (ES+, m/z) 353 (M+1).

reactant | triphenylphosphine | 9.95 mmol, 2.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.95 mmol, 1.73 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 7.69 mmol, 2.85 g | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=NC=CC=C21)CCCCC)=O)CO | C20H22N2O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
product | 1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 1.45 g, 54% | C(CCCC)N1C(C2(C=3C1=NC=CC3)COC=3C2=CC2=C(OCO2)C3)=O | C20H20N2O4
